US07402605B2
3-(4-t-butylbenzoyl)propanoic acid ethyl ester
To a solution of t-butylbenzene (2.00 g) in 1,2-dichloroethane (30 mL) was added aluminum chloride (2.2 g) in ice bath. Ethyl succinyl chloride (2.3 mL) was added dropwise to the mixture, which was stirred at room temperature for 23 hours. The reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, water and brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=9:1→5:1) to give the title compound (629 mg) having the following physical data.

reactant | t-butylbenzene | 2.00 g | C(C)(C)(C)C1=CC=CC=C1 | C10H14
reactant | aluminum chloride | 2.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Ethyl succinyl chloride | 2.3 mL | C(C)C(C(=O)Cl)CC(=O)Cl | C6H8Cl2O2
reactant | water | O | H2O
reactant | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | 3-(4-t-butylbenzoyl)propanoic acid ethyl ester | 629 mg | C(C)OC(CCC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C16H22O3
